US04503236
3-(2-Ethoxy-2-oxoethoxy)-1-methyl-1H-indole-2-carboxylic acid ethyl ester
Prepared by the procedure described in Example 1 from 3-hydroxy-1-methyl-1H-indole-2-carboxylic acid ethyl ester and ethyl bromoacetate. The crude oil product obtained after evaporation was used for further synthesis without additional purification.

reactant | 3-hydroxy-1-methyl-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C2=CC=CC=C2C1O)C | C12H13NO3
reactant | ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
product | 3-(2-Ethoxy-2-oxoethoxy)-1-methyl-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C2=CC=CC=C2C1OCC(=O)OCC)C | C16H19NO5
